US08975254B2
(R)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-2-(1-(methylsulfonyl)piperidin-4-yl)thiazole-4-carboxamide
(R)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-2-(piperidin-4-yl)thiazole-4-carboxamide (80 mg, 0.176 mmol) was added into a flask under nitrogen atmosphere. Dry pyridine was added along with methanesulfonyl chloride (20.14 mg, 0.176 mmol) and the mixture was stirred overnight. The reaction was stopped by adding water. The reaction mixture was diluted with DCM and washed with 1M Na2CO3 and water. The product was triturated using diethyl ether. Yield 35.5%. 1H-NMR (400 MHz; CDCl3): δ 1.29 (d, 3H), 1.92 (m, 2H), 2.18 (m, 2H), 2.81 (dd, 1H), 2.84 (s, 3H), 3.08 (m, 1H), 3.89 (m, 2H), 4.34 (dd, 1H), 4.42 (dd, 1H), 4.59 (m, 1H), 6.63 (d, 1H), 7.50 (d, 1H), 7.67 (d, 1H), 7.68 (d, 1H), 7.77 (dd, 1H), 7.98 (d, 1H), 8.01 (s, 1H).

reactant | (R)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-2-(piperidin-4-yl)thiazole-4-carboxamide | 0.176 mmol, 80 mg | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)C[C@@H](C)NC(=O)C=1N=C(SC1)C1CCNCC1 | C22H23ClN6OS
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonyl chloride | 0.176 mmol, 20.14 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | O | H2O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (R)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-2-(1-(methylsulfonyl)piperidin-4-yl)thiazole-4-carboxamide | Yield 35.5% | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)C[C@@H](C)NC(=O)C=1N=C(SC1)C1CCN(CC1)S(=O)(=O)C | C23H25ClN6O3S2
